US06017675
According to the method described under 1.1., 34.8 g (0.166 mol) of 3,4-bis(methylthio)benzyl cyanide are reacted with 0.166 mol methylnitrite. After the isolation 23.0 g (58%) α-hydroxyimino-3,4-bis(methylthio)benzyl cyanide are obtained as a brown substance with a melting point of 131-133° C. Elemental analysis: C10H10N2OS2 (238.33)

reactant | 3,4-bis(methylthio)benzyl cyanide | 0.166 mol, 34.8 g | CSC=1C=C(CC#N)C=CC1SC | C10H11NS2
reactant | methylnitrite | 0.166 mol | CON=O | CH3NO2
product | α-hydroxyimino-3,4-bis(methylthio)benzyl cyanide | 23.0 g, 58% | ON=C(C1=CC(=C(C=C1)SC)SC)C#N | C10H10N2OS2
